US06177440B1
A solution of {9-[(3-methylphenyl)methyl]-2-methyl-5-carbamoylcarbazol-4-yl}oxyacetic acid, methyl ester (0.12 g, 0.288 mM) and 1.4 mL (2.8 mM) of 2 N NaOH in 14 mL of ethanol was stirred for 30 minutes at 25° C. The reaction was acidified with 1N HCl to pH=2. After stirring 1 hour, the resultant white precipitate was collected by filtration, washed with water, then dried in vacuo to afford 114 mg (95%) {9-[(3-methylphenyl)methyl]-2-methyl-5-carbamoylcarbazol-4-yl}oxyacetic acid. 1H NMR (DMSO-d6) δ 11.1 (bs, 1H), 7.75 (bs, 1H), 7.6 (d, J=8 Hz, 1H), 7.45 (bs, 1H), 7.35 (dd, J=8 and 8 Hz, 1H), 7.2-7.0 (m, 5H), 6.85 (d, J=8 Hz, 1H), 6.45 (s, 1H), 5.6 (s, 2H), 4.8 (s, 2H), 2.4 (s, 3H), 2.2 (s, 3H). MS (ES) m/e 386, 403. Recrystallization from acetone/hexane provided an analytical sample:

reactant | {9-[(3-methylphenyl)methyl]-2-methyl-5-carbamoylcarbazol-4-yl}oxyacetic acid, methyl ester | 0.288 mM, 0.12 g | CC=1C=C(C=CC1)CN1C2=CC=CC(=C2C=2C(=CC(=CC12)C)OCC(=O)OC)C(N)=O | C25H24N2O4
reactant | NaOH | 2.8 mM, 1.4 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | ethanol | 14 mL | C(C)O | C2H6O
product | {9-[(3-methylphenyl)methyl]-2-methyl-5-carbamoylcarbazol-4-yl}oxyacetic acid | 114 mg, 95% | CC=1C=C(C=CC1)CN1C2=CC=CC(=C2C=2C(=CC(=CC12)C)OCC(=O)O)C(N)=O | C24H22N2O4
